US08293913B2
1.3 tert-Butyl 5-(3-(phenylsulfonyl)quinolin-8-yl)hexahydropyrrolo[2,3-c]pyrrole-1(2H)-carboxylate
A solution of sodium t-butoxide (70 mg, 0.71 mmol) and tert-butyl hexahydropyrrolo-[2,3-c]pyrrole-1(2H)-carboxylate (537 mg, 2.53 mmol) in dioxane (3 mL) was stirred under nitrogen. To this was added 1,1′-bis(diphenylphosphino)ferrocene (25 mg, 0.05 mmol), Pd2(DBA)3 (12 mg, 0.02 mmol) and 8-iodo-3-(phenylsulfonyl)quinoline (200 mg, 0.51 mmol), followed by the addition of a further 2 mL of dioxane. The mixture was then heated at 40° C. for 12 h before partitioning between CH2Cl2 and water. The mixture was filtered through Celite and the organic phase was separated. The water phase was extracted twice with CH2Cl2 and the combined extracts dried (Na2SO4), filtered and concentrated in vacuo to provide the crude material, which was purified by flash chromatography to give the title compound (92 mg, 38%) as a light yellow oil.

reactant | sodium t-butoxide | 0.71 mmol, 70 mg | CC(C)([O-])C.[Na+]
reactant | tert-butyl hexahydropyrrolo-[2,3-c]pyrrole-1(2H)-carboxylate | 2.53 mmol, 537 mg | N1(CCC2C1CNC2)C(=O)OC(C)(C)C | C11H20N2O2
reactant | 8-iodo-3-(phenylsulfonyl)quinoline | 0.51 mmol, 200 mg | IC=1C=CC=C2C=C(C=NC12)S(=O)(=O)C1=CC=CC=C1 | C15H10INO2S
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.05 mmol, 25 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | Pd2(DBA)3 | 0.02 mmol, 12 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl 5-(3-(phenylsulfonyl)quinolin-8-yl)hexahydropyrrolo[2,3-c]pyrrole-1(2H)-carboxylate | 92 mg, 38% | C1(=CC=CC=C1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)N1CC2C(C1)CCN2C(=O)OC(C)(C)C | C26H29N3O4S
